US04097516
As in previous examples, 126 g of cyclooctanone, XXVIc, was reacted with ethyl formate to give 95 g (0.62 mol) of 2-hydroxymethylene-cyclooctanone, XXVIIc, bp 87°-92° C (0.4 mm).

reactant | cyclooctanone | 126 g | C1(CCCCCCC1)=O | C8H14O
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | 2-hydroxymethylene-cyclooctanone | 0.62 mol, 95 g | OC=C1C(CCCCCC1)=O | C9H14O2
